US04977165
(1) Preparation of N-[2-(6-methyl-2-pyridyl)ethyl]-phthalimide
45.6 g (262 mmol) of diethyl azadicarboxylate (DEAD) was added dropwise to a solution of 30.0 g (219 mmol) of 2-(6-methyl-2-pyridyl)ethanol, 38.6 g (262 mmol) of phthalimide and 68.6 g (262 mmol) of triphenylphosphine in 300 ml of tetrahydrofuran at a temperature of 15° to 25° C. The mixture was stirred overnight. Water was added to the mixture. After extraction with ethyl acetate, the organic layer was washed with water After extraction with 2N hydrochloric acid, a 3N sodium hydroxide solution was added to the aqueous layer at 0° C. to make it alkaline. White crystals thus formed were collected by filtration to give 39.04 g (yield: 67%) of the intended compound.

reactant | 2-(6-methyl-2-pyridyl)ethanol | 219 mmol, 30.0 g | CC1=CC=CC(=N1)CCO | C8H11NO
reactant | phthalimide | 262 mmol, 38.6 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 262 mmol, 68.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Water | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-[2-(6-methyl-2-pyridyl)ethyl]-phthalimide | 39.04 g, yield: 67% | CC1=CC=CC(=N1)CCN1C(C=2C(C1=O)=CC=CC2)=O | C16H14N2O2
